US08022223B2
Step A: 3-(2-bromoallyl)-1-methylpyrrolidin-2-one.
1-Methyl-2-pyrrolidinone (3.87 mL, 40-3 mmol) was combined with 25 mL of THF and cooled to −78° C. Lithium diisopropylamide (26.9 mL, 40.3 mmol) (1.5M in THF) was added slowly and the mixture was agitated for 30 minutes. 2,3-Dibromopropene (4.93 mL, 40.3 mmol) was added and the mixture was agitated overnight and allowed to warm up to ambient temperature. The reaction was quenched with sodium bicarbonate solution and extracted twice with ether. The extracts were washed with brine and evaporated. The crude product was purified by chromatography on silica gel, eluting with 30-50% ethyl acetate/hexane, to provide the title compound (5.01 g, 56.9% yield) as clear oil.

reactant | 1-Methyl-2-pyrrolidinone | 40-3 mmol, 3.87 mL | CN1C(CCC1)=O | C5H9NO
reactant | Lithium diisopropylamide | 40.3 mmol, 1.5M, 26.9 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,3-Dibromopropene | 40.3 mmol, 4.93 mL | BrC(=C)CBr | C3H4Br2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-(2-bromoallyl)-1-methylpyrrolidin-2-one | 5.01 g, 56.9% yield | BrC(CC1C(N(CC1)C)=O)=C | C8H12BrNO
